US04006159
Preparation of 1(and 2 and 4)-Heptanoyl-s-triazole-3-carboxamide
To a cooled, stirred mixture of 3 g. of 1,2,4-triazole-3-carboxamide and 4 g. of heptanoic anhydride in 125 ml. of anhydrous diethyl ether is added rapidly 2.75 g. of triethylamine. The cooling bath is removed and the mixture is stirred at room temperature for 17.5 hours. The heterogeneous mixture is filtered, washed with diethyl ether, cold water and then diethyl ether, dried for about 15 minutes and then dried in vacuo yielding 4 g. of colorless solid. The solid is extracted in hot dry acetonitrile and on cooling to room temperature the product is collected, washed with acetonitrile and dried in vacuo, yielding 0.4 g. of colorless crystals, m.p. 184°-187° C. (dec.).

reactant | 1,2,4-triazole-3-carboxamide | N1N=C(N=C1)C(=O)N | C3H4N4O
reactant | heptanoic anhydride | C(CCCCCC)(=O)OC(CCCCCC)=O | C14H26O3
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Heptanoyl-s-triazole-3-carboxamide | C(CCCCCC)(=O)C1=NC(=NN1)C(=O)N | C10H16N4O2
